US08222416B2
A mixture of 1-benzenesulfonyl-2-(2-cyclopentyl-1-{3-fluoro-4-[1-methyl-1-(tetrahydro-pyran-2-yloxy)-ethyl]-phenyl}-vinyl)-1H-pyrrolo[2,3-b]pyridin-5-carboxylic acid methyl ester (6 g, 9.1 mmol) in tetrahydrofuran (5 mL) and a tetrabutylammonium fluoride solution in tetrahydrofuran (1 M, 15 mL, 15 mmol) was stirred at room temperature for 12 h. The mixture was diluted with ethyl acetate (150 mL), washed with a saturated aqueous ammonium chloride solution and brine, dried over anhydrous sodium sulfate and concentrated in vacuo to afford 2-(2-cyclopentyl-1-{3-fluoro-4-[1-methyl-1-(tetrahydro-pyran-2-yloxy)-ethyl]-phenyl}-vinyl)-1H-pyrrolo[2,3-b]pyridin-5-carboxylic acid methyl ester (3 g, 63.8%) as a white solid: LC/MS m/e calcd for C30H35FN2O4 [M+H]+ 507.62, observed 507.0.

reactant | 1-benzenesulfonyl-2-(2-cyclopentyl-1-{3-fluoro-4-[1-methyl-1-(tetrahydro-pyran-2-yloxy)-ethyl]-phenyl}-vinyl)-1H-pyrrolo[2,3-b]pyridin-5-carboxylic acid methyl ester | 9.1 mmol, 6 g | COC(=O)C=1C=C2C(=NC1)N(C(=C2)C(=CC2CCCC2)C2=CC(=C(C=C2)C(C)(OC2OCCCC2)C)F)S(=O)(=O)C2=CC=CC=C2 | C36H39FN2O6S
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 15 mmol, 1 M, 15 mL | O1CCCC1 | C4H8O
product | 2-(2-cyclopentyl-1-{3-fluoro-4-[1-methyl-1-(tetrahydro-pyran-2-yloxy)-ethyl]-phenyl}-vinyl)-1H-pyrrolo[2,3-b]pyridin-5-carboxylic acid methyl ester | 3 g, 63.8% | COC(=O)C=1C=C2C(=NC1)NC(=C2)C(=CC2CCCC2)C2=CC(=C(C=C2)C(C)(OC2OCCCC2)C)F | C30H35FN2O4
